US09035067B2
2. Synthesis of 4-chloro-N-(1-methyl-1H-1,2,4-triazol-5-yl)-2,3-dihydro-1-benzothiophen-5-carboxamide 1,1-dioxide (table example No. 1545)
0.80 g (3.24 mmol) of 4-chloro-2,3-dihydro-1-benzothiophene-5-carboxylic acid 1,1-dioxide, 0.72 g (2.43 mmol) of di(1-methyl-1H-1,2,4-triazol-5-amine) sulfate and 20 mg (0.164 mmol) of DMAP were initially charged in 5 ml of pyridine, 0.65 g (5.35 mmol) of thionyl chloride were added and the mixture was stirred at 70° C. for 1 h. Subsequently, 0.5 ml of water was added, and the mixture was stirred for a further 30 min, acidified with saturated KHSO4 solution and extracted three times with 100 ml each time of ethyl acetate. The combined organic phases were washed with saturated NaHCO3 solution, dried over Na2SO4 and concentrated. The residue was purified by column chromatography (silica gel, heptane/ethyl acetate). Yield 642 mg (61%).

reactant | 4-chloro-2,3-dihydro-1-benzothiophene-5-carboxylic acid 1,1-dioxide | 3.24 mmol, 0.80 g | ClC1=C(C=CC2=C1CCS2(=O)=O)C(=O)O | C9H7ClO4S
reactant | di(1-methyl-1H-1,2,4-triazol-5-amine) sulfate | 2.43 mmol, 0.72 g | S(=O)(=O)(O)O.CN1N=CN=C1N.CN1N=CN=C1N
reactant | thionyl chloride | 5.35 mmol, 0.65 g | S(=O)(Cl)Cl | Cl2OS
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
catalyst | DMAP | 0.164 mmol, 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 0.5 ml | O | H2O
product | 4-chloro-N-(1-methyl-1H-1,2,4-triazol-5-yl)-2,3-dihydro-1-benzothiophen-5-carboxamide 1,1-dioxide | ClC1=C(C=CC2=C1CCS2(=O)=O)C(=O)NC2=NC=NN2C | C12H11ClN4O3S
